US05444068
a) 2-Carboxy-6-nitrobenzamide
30 g (0.155 mol) of 3-nitrophthalic anhydride are introduced in portions into 180 ml of conc. ammonium solution and the resulting solution is heated at 100° C. with stirring for 45 min. The mixture is evaporated in a rotary evaporator and co-distilled twice with toluene, and the residue is dried in a high vacuum. It is stirred with EA, and the beige precipitate is filtered off with suction and dried in vacuo over P2O5. 31.8 g of the title compound are obtained.

reactant | 3-nitrophthalic anhydride | 0.155 mol, 30 g | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
reactant | ammonium | 180 ml | [NH4+]
product | 2-Carboxy-6-nitrobenzamide | 31.8 g | C(=O)(O)C1=C(C(=O)N)C(=CC=C1)[N+](=O)[O-] | C8H6N2O5
